US05576335
Phenyl 4-fluoro-2-nitrophenylcarbamate (0.70 g) and N-methylheptylamine (0.33 g) were dissolved in xylene (5 ml) and the solution was heated under reflux for 2 hrs. The solvent was distilled off and the residue was purified by a silica gel column chromatography (hexane:ethyl acetate=3:1) to give 1-(4-fluoro-2-nitrophenyl)-3-heptyl-3-methylurea as an oily product.

reactant | Phenyl 4-fluoro-2-nitrophenylcarbamate | 0.70 g | FC1=CC(=C(C=C1)NC(OC1=CC=CC=C1)=O)[N+](=O)[O-] | C13H9FN2O4
reactant | N-methylheptylamine | 0.33 g | CNCCCCCCC | C8H19N
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-fluoro-2-nitrophenyl)-3-heptyl-3-methylurea | FC1=CC(=C(C=C1)NC(=O)N(C)CCCCCCC)[N+](=O)[O-] | C15H22FN3O3
